US04954508
4,7-dihydro-1,3,6-trimethyl-4-(2-chlorophenyl)-1H-pyrazolo[3,4-b]pyridin-5-carboxylic acid ethyl ester, hydrochloride.
Starting from 1,3-dimethyl-5-pyrazolamine and ethyl-2-(2-chlorobenzyliden)acetoacetate. M.p. 240°-242° C.

reactant | 1,3-dimethyl-5-pyrazolamine | CN1N=C(C=C1N)C | C5H9N3
reactant | ethyl-2-(2-chlorobenzyliden)acetoacetate | C(C)OC(C(C(=O)C)=CC1=C(C=CC=C1)Cl)=O | C13H13ClO3
product | 4,7-dihydro-1,3,6-trimethyl-4-(2-chlorophenyl)-1H-pyrazolo[3,4-b]pyridin-5-carboxylic acid ethyl ester, hydrochloride | Cl.C(C)OC(=O)C=1C(C2=C(NC1C)N(N=C2C)C)C2=C(C=CC=C2)Cl | InChI=1S/C18H20ClN3O2.ClH/c1-5-24-18(23)15-10(2)20-17-14(11(3)21-22(17)4)16(15)12-8-6-7-9-13(12)19;/h6-9,16,20H,5H2,1-4H3;1H
